US05180742
1,2-Dichloroethane (15 ml) was added to 0.76 g (5.0 mmole) of trimethylhydroquinone and 1.51 g (5.0 mmole) of methyl 7-hydroxy-7-[4-(1-imidazolyl)phenyl]heptanoate, followed by warming at 80° C. and stirring. 1.42 ml (5.0×2.3 mmole) of boron trifluoride ethyl etherate was added dropwise to the mixture, followed by stirring at 80° C. for 2 hours. Then, methanol (15 ml) was added to the reaction solution, followed by further stirring at 80° C. for 2 hours. After cooling by standing at room temperature, the solvent was distilled off, and the residue was dissolved in tetrahydrofuran (20 ml). A solution of 2.7 g (10.0 mmole) of ferric chloride in water (10 ml) was added to the solution, followed by stirring at room temperature for 20 minutes. The tetrahydrofuran was distilled off, and chloroform was added to the residue to conduct extraction. The organic layer was separated out, washed with aqueous sodium hydrogencarbonate solution added, then washed with aqueous sodium chloride solution, dried (magnesium sulfate) and evaporated. The residue was chromatographed on a silica gel column, and elution was effected with ethyl acetate. The fractions containing the object compound were collected, and the solvent was distilled off under reduced pressure to give 1.70 g (78%) of methyl 7-[4-(1-imidazolyl)phenyl]-7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)heptanoate.

reactant | 1,2-Dichloroethane | 15 ml | ClCCCl | C2H4Cl2
reactant | trimethylhydroquinone | 5.0 mmole, 0.76 g | CC=1C(=C(C(=C(O)C1)C)C)O | C9H12O2
reactant | methyl 7-hydroxy-7-[4-(1-imidazolyl)phenyl]heptanoate | 5.0 mmole, 1.51 g | OC(CCCCCC(=O)OC)C1=CC=C(C=C1)N1C=NC=C1 | C17H22N2O3
reactant | boron trifluoride ethyl etherate | 2.3 mmole, 1.42 ml | B(F)(F)F.CCOCC
solvent | water | 10 ml | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | methyl 7-[4-(1-imidazolyl)phenyl]-7-(3,5,6-trimethyl-1,4-benzoquinon -2-yl)heptanoate | 1.70 g, 78% | N1(C=NC=C1)C1=CC=C(C=C1)C(CCCCCC(=O)OC)C=1C(C(=C(C(C1C)=O)C)C)=O | C26H30N2O4
